US07875645B2
2-(2,6-Diethyl-3-phenoxy-benzyl)-1H-imidazole was prepared from rac-(2,6-diethyl-3-phenoxy-phenyl)-(1H-imidazol-2-yl)-methanol, triethylsilane and trifluoroacetic acid in analogy to Example 191e): white crystals; MS (ISP): 307.3 ([M+H]+, 100%).

reactant | rac-(2,6-diethyl-3-phenoxy-phenyl)-(1H-imidazol-2-yl)-methanol | C(C)C1=C(C(=CC=C1OC1=CC=CC=C1)CC)C(O)C=1NC=CN1 | C20H22N2O2
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(2,6-Diethyl-3-phenoxy-benzyl)-1H-imidazole | C(C)C1=C(CC=2NC=CN2)C(=CC=C1OC1=CC=CC=C1)CC | C20H22N2O
